US09085570B2
A mixture of methyl 4-(5-methyl-4-(p-tolylthiomethyl)oxazol-2-yl)benzoate (3.1 g, 8.78 mmol, 1.00 equiv) in 6N hydrochloric acid (90 mL) was stirred overnight at 90° C. The reaction mixture was diluted with 150 mL of water and extracted with 3×150 mL of ethyl acetate. The combined organic layers was washed with 3×50 mL of brine, dried over anhydrous sodium sulfate and concentrated under vacuum to give 2.2 g (74%) of 4-(5-methyl-4-(p-tolylthiomethyl)oxazol-2-yl)benzoic acid as a white solid. LC-MS: (ES, m/z): 381 [M+CH3CN+H]+, 340 [M+H]+, 257, 216, 189, 146, 105. H-NMR: 1HNMR (400 MHz, CDCl3, ppm) δ 8.18-8.09 (dd, 4H), 7.30-7.28 (d, 2H), 7.10-7.08 (d, 2H), 3.95 (s, 2H), 2.32 (s, 3H), 2.08 (s, 3H).

reactant | methyl 4-(5-methyl-4-(p-tolylthiomethyl)oxazol-2-yl)benzoate | 8.78 mmol, 3.1 g, 1.00 equiv | CC1=C(N=C(O1)C1=CC=C(C(=O)OC)C=C1)CSC1=CC=C(C=C1)C | C20H19NO3S
solvent | hydrochloric acid | 6N, 90 mL | Cl | ClH
solvent | water | 150 mL | O | H2O
product | 4-(5-methyl-4-(p-tolylthiomethyl)oxazol-2-yl)benzoic acid | 2.2 g, 74% | CC1=C(N=C(O1)C1=CC=C(C(=O)O)C=C1)CSC1=CC=C(C=C1)C | C19H17NO3S
